US07279580B2
A mixture of lithium diisopropylamide (2 M in heptane/THF/ethylbenzene, stabilised with 0.5% w/w LiBr; 1.9 ml, 3.8 mmol) and THF (3 ml) was cooled to −78° C. and a solution of 2-chloro-3-fluoropyridine (500 mg, 3.8 mmol) in THF (3 ml) was added dropwise over 1 min. After 2 h, acetone (pre-dried twice over activated 4 Å molecular sieves) was added dropwise and the mixture allowed to warm to ambient temperature, then quenched with saturated aqueous NH4Cl solution (10 ml) and extracted with EtOAc (50 ml). The organic phase was dried over anhydrous MgSO4 and concentrated in vacuo. The crude material was purified by column chromatography (silica; 10-20% EtOAc/isohexane) to afford 2-(2-chloro-3-fluoropyridin-4-yl)propan-2-ol (687 mg, 95%): δH (360 MHz, CDCl3) 1.66 (6H, s), 7.53 (1H, m), 8.16 (1H, m); m/z (ES+) 190 (100%, [MH]+).

reactant | lithium diisopropylamide | 3.8 mmol, 2 M, 1.9 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-chloro-3-fluoropyridine | 3.8 mmol, 500 mg | ClC1=NC=CC=C1F | C5H3ClFN
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-(2-chloro-3-fluoropyridin-4-yl)propan-2-ol | 687 mg, 95% | ClC1=NC=CC(=C1F)C(C)(C)O | C8H9ClFNO
